US07939552B2
Ethyl 4-(3,5-bis(trifluoromethyl)benzyloxy)-3-phenylbutanoate (26.06 g, 60 mmol) was dissolved in ethanol (300 mL), a 2 mol/L aqueous solution of sodium hydroxide was added thereto and the mixture was stirred for 20 hours at room temperature. The solvent was evaporated in vacuo and the resulting residue was dissolved in water and acidified with 6 mol/L hydrochloric acid. The oily product separated out therefrom was extracted with chloroform and the organic layers were combined and washed with water and a saturated saline solution. After it was dried over anhydrous sodium sulfate, the solvent was evaporated in vacuo to give 4-(3,5-bis(trifluoromethyl)benzyloxy)-3-phenylbutanoic acid (26.60 g, 90%) as an oily product. 1H-NMR (DMSO-d6) δ: 2.56 (dd, J=8.4, 16.0 Hz, 1H), 2.73 (dd, J=6.4, 16.0 Hz, 1H), 3.35-3.40 (m, 1H), 3.63-3.66 (m, 2H), 4.64 and 4.66 (ABq, J=13.4 Hz, 2H), 7.19-7.25 (m, 1H), 7.27-7.31 (m, 4H), 7.88 (s, 2H), 7.98 (s, 1H), 12.09 (brs, 1H).

reactant | Ethyl 4-(3,5-bis(trifluoromethyl)benzyloxy)-3-phenylbutanoate | 60 mmol, 26.06 g | FC(C=1C=C(COCC(CC(=O)OCC)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C21H20F6O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 4-(3,5-bis(trifluoromethyl)benzyloxy)-3-phenylbutanoic acid | 26.60 g, 90% | FC(C=1C=C(COCC(CC(=O)O)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C19H16F6O3
